US08975264B2
Step 1: Preparation of 2-(4-chlorophenyl)-3-cyclopropyl-3-oxopropanenitrile (Chemical Formula 78)
2-(4-Chlorophenyl)acetonitrile (5.74 g) is dissolved in 120 mL of THF at 0° C. After adding 60% NaH (4.2 g, 2.7 eq), the reaction mixture is stirred for 10 minutes. Ethylcyclopropane carboxylate is added and the mixture is stirred overnight. The reaction is stopped by adding acetic acid (5 mL) and water. The aqueous layer is extracted with ethyl acetate (50 mL×3). The collected organic layer is washed with brine and dehydrated with MgSO4. The dehydrated organic layer is concentrated by distillation under reduced pressure and purified by column chromatography to yield 7.74 g of the target compound. 1H NMR (CDCl3, 300 MHz): δ 7.42 (d, J=8.7 Hz, 2H), 7.34 (d, J=8.7 Hz, 2H), 4.79 (s, 1H), 2.10 (m, 1H) 1.16 (m, 2H), 1.03 (m, 2H).

reactant | 2-(4-Chlorophenyl)acetonitrile | 5.74 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | NaH | 4.2 g, 2.7 eq | [H-].[Na+]
reactant | Ethylcyclopropane carboxylate | C(C)OC(=O)C1CC1 | C6H10O2
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(4-chlorophenyl)-3-cyclopropyl-3-oxopropanenitrile | 7.74 g | ClC1=CC=C(C=C1)C(C#N)C(=O)C1CC1 | C12H10ClNO
